US07435837B2
Treatment of (±)-[7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (7.79 g, 19.74 mmol) with sodium azide (5.13 g, 78.99 mmol) generally according to the procedure described for Intermediate 98 gave (±)-2-(azidomethyl)-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.5 g, 10 wt. %) generally according to the procedure described for Example 1 provided 3.63 g (67%) of (±)-1-[7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp >200° C.; Anal. calcd. for C16H17NOHCl: C, 69.69; H, 6.58; N, 5.08. Found: C, 69.83; H, 6.64; N, 5.

reactant | (±)-[7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 19.74 mmol, 7.79 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)C | C23H22O4S
reactant | sodium azide | 78.99 mmol, 5.13 g | [N-]=[N+]=[N-].[Na+]
product | (±)-2-(azidomethyl)-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)C | C16H15N3O
